US08975250B2
2.1 (4-Methylpiperazin-1-yl)(4-nitrophenyl)methanone
A mixture of 2.0 g of 4-nitrobenzoic acid (11.97 mmol), 10.42 mL of diisopropylethylamine (59.84 mmol) and 1.46 mL of 1-methylpiperazine (13.16 mmol) in 40 mL of DMF is cooled to 2-5°C. on an ice bath. 11.53 g (35.9 mmol) of O-benzotriazolyltetramethylisouronium tetrafluoroborate (TBTU, CAS No.=125700-67-6) are then added portionwise and the mixture is stirred at temperature overnight. The reaction mixture is diluted with dichloromethane and saturated aqueous NaCl solution. After separation of the phases by settling, the aqueous phase is extracted with dichloromethane. The organic phases are combined, dried over Na2SO4, filtered and concentrated under vacuum. The oily residue containing insoluble material is drained by suction and then rinsed with dichloromethane and a small amount of methanol. 1.67 g of the expected product are obtained in the form of a pale pink solid, which is used as obtained without further purification. Yield=56%.

reactant | 4-nitrobenzoic acid | 11.97 mmol, 2.0 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | diisopropylethylamine | 59.84 mmol, 10.42 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methylpiperazine | 13.16 mmol, 1.46 mL | CN1CCNCC1 | C5H12N2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | NaCl | [Na+].[Cl-]
product | (4-Methylpiperazin-1-yl)(4-nitrophenyl)methanone | 1.67 g, Yield=56% | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15N3O3
